US05550149
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinedecanenitrile
The procedure of Example 3 is repeated using 0.836 g of α-(5-bromooctyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 0.675 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline. This affords 0.422 g of the desired product as a brown gum.

reactant | α-(5-bromooctyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 0.836 g | BrC(CCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C)CCC | C25H32BrNO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.675 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinedecanenitrile | 0.422 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C36H46N2O4S
